Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][H:8]>>[C:2]([H:3])[C:4]#[C:5][C:6][C:7][H:8].[O:1],7.11591535266
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:13].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16],1.7561696516499998
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],1.28889559088
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.57127076525
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])=[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.83313838369
[C:6]([H:7])([H:8])[H:9].[H:1][C:2][O:3][C:4](=[O:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.397187730661
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.4466736365199995
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:11])([H:14])[H:15].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:10]#[C:12][H:13],1.42904810886
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.14473104
[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2][H:3],5.68935432533
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.6197662949200002
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10].[H:1],3.88607753696
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.36570391793
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]([H:7])[H:8],3.66835037844
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.52037415224
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-1.9080410586200005
[C:6]([H:7])#[C:8][H:9].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-0.531117241231
[H:1][O:2][C:3][C:9]([C:6]([C:4][H:5])([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-5.41102524
[H:15].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5668162717900005
[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])/[C:9]([H:10])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-1.78390053097
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:12]([H:13])[H:14].[O:10][H:11],2.7504978703500003
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.071118213419998
[H:1][O:2][C:3](=[C:4][H:5])[C:10]([C:6]([H:7])[O:8][H:9])([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]1([H:11])[H:12],-3.068836572
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.83308348194
[H:1][O:2][C:3]([H:4])[C:6]([H:5])([H:7])[H:13].[O:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.63516376044
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-6.8724984699
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])[H:11].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.48676822041
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],3.85052158847
